US08466296B2
E. Preparation of [(2S)-7-nitro-2,3-dihydro-1,4-benzodioxin-2-yl]methanol
A 3 L 3-necked flask equipped with a mechanical stirrer, a reflux condenser, a thermocouple and a heating mantel is charged with EtOH (1500 mL), (2R)-2-{[2-(benzyloxy)-4-nitrophenoxy]methyl}oxirane (70.00 g, 0.232 mol), sodium bicarbonate (38.98 g, 0.464 mol) and 1,4-cyclohexadiene (39.56 mL, 0.418 mol). Argon gas is bubbled through the suspension for 5 min, and then the bubbling is discontinued, and palladium (10% on carbon, 4.9 g) is added. The mixture is heated to an internal temperature of 60° C. and stirred at 60° C. for 1 h. The solution is cooled to rt, filtered through a pad of celite and evaporated to dryness. The residue is dissolved in EtOAc (800 mL), and washed with 1 N HCl (2×100 mL) and brine (100 mL), and the volatiles are removed. The title compound (47.33 g, 93%) is obtained as a tan powder. LCMS (Standard Method): 2.23 min, 212 (M+H)+. 1NMR (300 MHz, CDCl3) δ 7.81-7.76 (m, 2H), 6.96 (d, J=8.5 Hz, 1H), 4.42 (dd, J=2.1, 11.2 Hz, 1H), 4.32-4.18 (m, 2H), 3.98-3.85 (m, 2H), 2.03 (br s, 1H).

reactant | (2R)-2-{[2-(benzyloxy)-4-nitrophenoxy]methyl}oxirane | 0.232 mol, 70.00 g | C(C1=CC=CC=C1)OC1=C(OC[C@@H]2OC2)C=CC(=C1)[N+](=O)[O-] | C16H15NO5
reactant | sodium bicarbonate | 0.464 mol, 38.98 g | C([O-])(O)=O.[Na+]
reactant | 1,4-cyclohexadiene | 0.418 mol, 39.56 mL | C1=CCC=CC1 | C6H8
solvent | EtOH | 1500 mL | CCO | C2H6O
product | [(2S)-7-nitro-2,3-dihydro-1,4-benzodioxin-2-yl]methanol | 47.33 g, 93% | [N+](=O)([O-])C=1C=CC2=C(O[C@H](CO2)CO)C1 | C9H9NO5
